US07820707B2
b) 2-Cyano-2-cyclohexylidene-N-(2-hydroxyethyl)acetamide
2-Cyano-N-(2-hydroxyethyl)acetamide (4.62 g, 36.1 mmol), cyclohexanone (3.89 g, 4.10 mL, 39.7 mmol), acetic acid (0.433 g, 0.413 mL, 7.21 mmol) and ammonium acetate (2.78 g, 36.1 mmol) were suspended in toluene (150 mL) and the mixture heated to reflux under Dean-Stark conditions until no more water was collected (˜1.5 h). The mixture was concentrated to remove toluene before partitioning between EtOAc/Water. The organic phase was collected, dried and concentrated to a lower volume before addition of small quantities of heptane. The glass was etched until precipitation occurred and the solid collected by filtration. The desired product was isolated in 3 batches (4.2 g, 20.2 mmol, 56%). The sample was used directly in the next step without any further purification.

reactant | 2-Cyano-N-(2-hydroxyethyl)acetamide | 36.1 mmol, 4.62 g | C(#N)CC(=O)NCCO | C5H8N2O2
reactant | cyclohexanone | 39.7 mmol, 4.10 mL, 3.89 g | C1(CCCCC1)=O | C6H10O
reactant | acetic acid | 7.21 mmol, 0.413 mL, 0.433 g | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 36.1 mmol, 2.78 g | C(C)(=O)[O-].[NH4+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-Cyano-2-cyclohexylidene-N-(2-hydroxyethyl)acetamide | C(#N)C(C(=O)NCCO)=C1CCCCC1 | C11H16N2O2
